US04661505
6-(4-Acetyl-3-hydroxyphenoxy)heptanoic acid
Following the procedure of Example 40, 4.74 g. of ethyl 6-bromoheptanoate and 3.04 g. of 2,4-dihydroxyacetophenone were reacted in the usual manner and the resulting product hydrolyzed to give the title product, m.p. about 116°-118° C.

reactant | ethyl 6-bromoheptanoate | BrC(CCCCC(=O)OCC)C | C9H17BrO2
reactant | 2,4-dihydroxyacetophenone | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
product | 6-(4-Acetyl-3-hydroxyphenoxy)heptanoic acid | C(C)(=O)C1=C(C=C(OC(CCCCC(=O)O)C)C=C1)O | C15H20O5
